US07767677B2
To a suspension of 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester (1.000 g, 2.535 mmol) in a mixture of tetrahydrofuran-water (1:1, 5 mL), LiOH.H2O (0.106 g, 2.535 mmol) was added in one portion. The mixture was stirred at room temperature overnight. The clear solution was then cooled to 0° C. and quenched with 1 N HCl solution to pH 4-5. The solid separated was filtered. The residue was washed with cold water and dried under vacuum to obtain 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (0.771 g, 2.027 mmol, 80%) as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 7.82 (t, J=9.6 Hz, 2H), 7.74 (t, J=7.4 Hz, 1H), 7.64 (t, J=7.6 Hz, 1H), 7.52 (d, J=7.4 Hz, 1H), 7.27 (t, J=9.6 Hz, 1H), 3.87-3.60 (m, 6H), 3.31-3.10 (m, 2H), 13C NMR (75 MHz, DMSO-d6) δ 166.8, 165.7, 160.0, 143.7, 134.9, 134.9, 133.4, 130.1, 129.0, 128.0, 127.1, 127.0, 127.0, 126.0, 125.9, 125.5, 122.4, 112.5, 46.3, 44.3, 44.1. MS (ES+) m/z 381.2 (M+1).

reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester | 2.535 mmol, 1.000 g | COC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C18H17F3N4O3
reactant | LiOH.H2O | 2.535 mmol, 0.106 g | O[Li].O
solvent | tetrahydrofuran water | 5 mL | O1CCCC1.O
product | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid | 2.027 mmol, 0.771 g, 80% | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H15F3N4O3
